.include 4_NOR.sub
.include NOT.sub

.subckt 4_OR w x y z out vdd gnd l=0.09u w_n=0.9u w_p=1.8u

xor4 w x y z nand_out vdd gnd 4_NOR lambda={l} width_N={w_n} width_P={w_p}
xinv nand_out out vdd gnd NOT lambda={l} width_N={w_n} width_P={w_p}

.ends 4_OR